US06693137B1
4-(N,N-Dimethylaminopropyloxy)phenyl Bromide
4-bromophenol (5.0 g, 28.9 mmol) and 2-dimethylaminoethyl chloride hydrochloride (4.6 g, 31.8 mmol) were combined in a mixture of toluene (100 mL) and 1 M NaOH (50 mL) and heated at reflux for 16 h. The layers were separated and the organic phase was washed with 1 M NaOH, dried (MgSO4) and concentrated to yield 4.2 g of the title compound as a yellow oil which was used without further purification. 1H NMR (400 MHz, CDCl3): δ 2.34 (6H, s), 2.72 (2H, t), 4. 01 (2H, t), 6.73 (2H, m), 7.33 (2H, m).

reactant | 4-bromophenol | 28.9 mmol, 5.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-dimethylaminoethyl chloride hydrochloride | 31.8 mmol, 4.6 g | Cl.CN(CCCl)C
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 1 M, 50 mL | [OH-].[Na+]
product | 4-(N,N-Dimethylaminopropyloxy)phenyl Bromide | 4.2 g | CN(C)CCCOC1=CC=C(C=C1)Br | C11H16BrNO
